US07375236B2
2-Bromo-6-tert-butyl-4-(1,1-dimethoxyethyl)anisole
Under nitrogen atmosphere, methanol (678 mL), trimethyl orthoformate (796 g, 7.50 mol), and (±)-10-camphorsulfonic acid [(±)-CSA] (11.6 g, 0.050 mol, 2 mol %) were added to 1-(5-bromo-3-tert-butyl-4-hydroxyphenyl)ethanone (678 g, 2.50 mol), followed by stirring. After stirring for 2.7 hours, N,N-dimethylformamide (1.7 L) was added and this was cooled on ice. Furthermore, methyl iodide (700 g) was added followed by potassium carbonate (518 g), and this was stirred at room temperature. After stirring for 5.5 hours, water (4750 mL) and n-heptane (4750 mL) were added and the solution was separated. The organic layer was washed with water (2370 mL), and then sodium sulfate (120.2 g) was added. After stirring, the mixture was filtered by suction, and rinsed with n-heptane (250 mL). The filtrate was evaporated (50° C.) to obtain 808 g of the subject compound as a brown oily substance (yield: 98%, HPLC purity: 96.8%).

reactant | trimethyl orthoformate | 7.50 mol, 796 g | C(OC)(OC)OC | C4H10O3
reactant | 1-(5-bromo-3-tert-butyl-4-hydroxyphenyl)ethanone | 2.50 mol, 678 g | BrC=1C(=C(C=C(C1)C(C)=O)C(C)(C)C)O | C12H15BrO2
reactant | methyl iodide | 700 g | CI | CH3I
reactant | potassium carbonate | 518 g | C([O-])([O-])=O.[K+].[K+]
catalyst | (±)-10-camphorsulfonic acid | 0.050 mol, 11.6 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | n-heptane | 4750 mL | CCCCCCC | C7H16
solvent | water | 4750 mL | O | H2O
solvent | N,N-dimethylformamide | 1.7 L | CN(C=O)C | C3H7NO
solvent | methanol | 678 mL | CO | CH4O
product | 2-Bromo-6-tert-butyl-4-(1,1-dimethoxyethyl)anisole | 808 g, yield: 98% | BrC1=C(C(=CC(=C1)C(C)(OC)OC)C(C)(C)C)OC | C15H23BrO3
